US07834039B2
To a solution of 7-(benzyloxycarbony)-3-methy-5,6,7,8-tetrahydroimidazo[1,2-a] pyrazine-2-carboxylic acid (370 mg, 1.173 mmol) in DCM (10m1) was added oxalyl chloride (2.054 ml, 23.47 mmol) and DMF (5 uL). The reaction was stirred for one hour and concentrated. A solution of (E)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (268 mg, 1.173 mmol) in pyridine (10.00 ml) was added and the reaction was stirred at room temperature for 30 minutes. The reaction was treated with acetyl chloride (0.092 ml, 1.291 mmol) and then was heated at 115° C. under nitrogen for 4 hours. The reaction was cooled, concentrated and partitioned between saturated Na2CO3 and methylene chloride. The organic layer was washed with water, dried (sodium sulfate), filtered and concentrated under reduced pressure. The residue was purified on silica gel using 80:20/methylene chloride:ethyl acetate as the eluant to yield 2-[3-(3-Chloro-4-isopropoxy -phenyl)-[1,2,4] oxadiazol-5-yl] -3-methyl-5,6-dihydro-8H-imidazo[1,2-a] pyrazine-7-carboxylic acid benzyl ester (173 mg, 29%) as an off-white solid. LCMS (Table 1, Method a) Rl=4.34 min, m/z 508.24 (M+H)+; 1H NMR (400 MHz, DMSO-d6)δ 7.98 (d, 1 H), 7.93 (d,d, 1 H), 7.35 (m, 6H), 5.12 (s, 2H), 4.78 (m, 1 H), 4.66 (s,broad, 2H), 3.99 (m, 2H), 3.88 (s, broad, 2H), 2.57 (s, 3H), 1.31 (d, 6H).

reactant | 7-(benzyloxycarbony)-3-methy-5,6,7,8-tetrahydroimidazo[1,2-a] pyrazine-2-carboxylic acid | 1.173 mmol, 370 mg | C(C1=CC=CC=C1)OC(=O)N1CC=2N(CC1)C(=C(N2)C(=O)O)C | C16H17N3O4
reactant | oxalyl chloride | 23.47 mmol, 2.054 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (E)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 1.173 mmol, 268 mg | ClC=1C=C(/C(/N)=N\O)C=CC1OC(C)C | C10H13ClN2O2
reactant | acetyl chloride | 1.291 mmol, 0.092 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10.00 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 5 uL | CN(C)C=O | C3H7NO
product | 2-[3-(3-Chloro-4-isopropoxy -phenyl)-[1,2,4] oxadiazol-5-yl] -3-methyl-5,6-dihydro-8H-imidazo[1,2-a] pyrazine-7-carboxylic acid benzyl ester | 173 mg, 29% | C(C1=CC=CC=C1)OC(=O)N1CC=2N(CC1)C(=C(N2)C2=NC(=NO2)C2=CC(=C(C=C2)OC(C)C)Cl)C | C26H26ClN5O4
